US05367079
Using an analogous procedure to that described in Example 2, (1RS,3RS,4SR)-4-methyl-3-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]cyclohexan-1-ol was reacted with methyl iodide to give (1RS,3RS,4SR)-1-methoxy-4-methyl-3-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]cyclohexane as a foam in 60% yield.

reactant | (1RS,3RS,4SR)-4-methyl-3-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]cyclohexan-1-ol | CC1C(CC(CC1)O)C1=CC(=CC=C1)OCC=1C=C2C=CC(N(C2=CC1)C)=O | C24H27NO3
reactant | methyl iodide | CI | CH3I
product | (1RS,3RS,4SR)-1-methoxy-4-methyl-3-[3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]cyclohexane | 60% yield | COC1CC(C(CC1)C)C1=CC(=CC=C1)OCC=1C=C2C=CC(N(C2=CC1)C)=O | C25H29NO3
